US08084448B2
D. N-(t-Butoxycarbonylsulfamoyl)-N-(4-benzenesulfonyl-2-benzyloxyphenyl)glycine Methyl Ester
To a solution of chlorosulfonylisocyanate (346 mg, 2.45 mmol) in CH2Cl2 (15 mL) at 0° C. is added dropwise a solution of t-butanol (181 mg, 2.45 mmol) in CH2Cl2 (5 mL) and the mixture is stirred at 0-5° C. for 30 min. To this is added dropwise a solution of methyl (4-benzenesulfonyl-2-benzyloxyphenylamino)acetate (620 mg, 1.63 mmol) and triethylamine (281 mg, 278 mmol) in CH2Cl2 (5 mL) and the mixture is stirred at RT for 4 h. The mixture is washed with water and the organic layer is dried over magnesium sulfate. The solvent is removed under reduced pressure to afford an oil that is chromatographed on a Biotage 40M column using CH2Cl2/EtOAc (95:5) as eluent to afford the title compound as an oil: 1H NMR (CDCl3) δ 7.82 (m, 3H), 7.47 (m, 11H), 5.24 (s, 2H), 4.54 (br s, 2H), 3.67 (s, 3H), 1.41 (s, 9H); (M−1)−=589.

reactant | chlorosulfonylisocyanate | 2.45 mmol, 346 mg | ClS(=O)(=O)N=C=O | CClNO3S
reactant | t-butanol | 2.45 mmol, 181 mg | C(C)(C)(C)O | C4H10O
reactant | methyl (4-benzenesulfonyl-2-benzyloxyphenylamino)acetate | 1.63 mmol, 620 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)NCC(=O)OC)OCC1=CC=CC=C1 | C22H21NO5S
reactant | triethylamine | 278 mmol, 281 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(t-Butoxycarbonylsulfamoyl)-N-(4-benzenesulfonyl-2-benzyloxyphenyl)glycine Methyl Ester | COC(CN(C1=C(C=C(C=C1)S(=O)(=O)C1=CC=CC=C1)OCC1=CC=CC=C1)S(NC(=O)OC(C)(C)C)(=O)=O)=O | C27H30N2O9S2
